US05506219
A solution of 3-(2,2-dibromoethenyl)-4-(4-fluorophenyl)-2-(1-methylethyl)-6-phenylpyridine (2.105 gm, 4.43 mmol) in dry THF (23 ml) was cooled to -78° C. and treated with n-BuLi (1.5M in hexane, 5.95 ml, 8.93 mmol) over a 4 minute period. After stirring at -78° C. for 1.25 hours, the deep purple solution was quenched with saturated NH4Cl, warmed to room temperature, diluted with H2O, and extracted 2× with Et2O. The combined Et2O extracts were washed with brine, dried (Na2SO4), filtered and stripped to give a yellow solid. The solid was recrystallized from a minimum amount of hot hexane to afford analytically 3-ethynyl-4-(4-fluorophenyl)-2-(1-methylethyl)-6-phenylpyridine as white needles. The mother liquor was stripped and recrystallized again from hot hexane to give additional product (total yield 1.199 gm, 86%)

reactant | 3-(2,2-dibromoethenyl)-4-(4-fluorophenyl)-2-(1-methylethyl)-6-phenylpyridine | 4.43 mmol, 2.105 gm | BrC(=CC=1C(=NC(=CC1C1=CC=C(C=C1)F)C1=CC=CC=C1)C(C)C)Br | C22H18Br2FN
reactant | n-BuLi | 8.93 mmol, 1.5M, 5.95 ml | [Li]CCCC
solvent | THF | 23 ml | C1CCOC1 | C4H8O
product | 3-ethynyl-4-(4-fluorophenyl)-2-(1-methylethyl)-6-phenylpyridine | C(#C)C=1C(=NC(=CC1C1=CC=C(C=C1)F)C1=CC=CC=C1)C(C)C | C22H18FN
